US06251925B1
3-(3-Nitrophenyl)-5-pyridinecarboxylic acid methyl ester
Assay Found: C 60.61; H 3.93; N 10.78% C13H10N2O4 requires C 60.47; H 3.90; N 10.85%; from 3-bromo-5-pyridinecarboxylic acid methyl ester (1.00 g) and 3-nitrophenylboronic acid (785 mg) tetrakis(triphenylphosphine)palladium(0) (164 mg).

reactant | 3-bromo-5-pyridinecarboxylic acid methyl ester | 1.00 g | COC(=O)C=1C=C(C=NC1)Br | C7H6BrNO2
reactant | 3-nitrophenylboronic acid | 785 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 3-(3-Nitrophenyl)-5-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=C(C=NC1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H10N2O4
